US03971819
B. 3-amino-4-(m-chlorophenoxy)-5-sulphamyl-benzoic acid
A mixture of ammonium chloride (1.2 g), metallic iron powder (11 g), concentrated hydrochloric acid (0.05 ml), and water (30 ml) was heated on a steam bath. 4-(m-Chlorophenoxy)-3-nitro-5-sulphamyl-benzoic acid (3 g) was added while stirring, and the heating was continued for 6 hours. Then 1N sodium hydroxide (50 ml) was added, and the reaction mixture was filtered. The filter cake was washed twice with 1N sodium hydroxide (50 ml each time). The combined filtrates were adjusted to a pH of 2.5 by the addition of 4N hydrochloric acid. After cooling, the precipitated 3-amino-4-(m-chlorophenoxy)-5-sulphamyl-benzoic acid was collected by suction, and recrystallized from aqueous ethanol. The melting point was 239°-240°C.

reactant | ammonium chloride | 1.2 g | [Cl-].[NH4+]
reactant | hydrochloric acid | 0.05 ml | Cl | ClH
reactant | 4-(m-Chlorophenoxy)-3-nitro-5-sulphamyl-benzoic acid | 3 g | ClC=1C=C(OC2=C(C=C(C(=O)O)C=C2S(N)(=O)=O)[N+](=O)[O-])C=CC1 | C13H9ClN2O7S
reactant | sodium hydroxide | 1N, 50 ml | [OH-].[Na+]
catalyst | iron | 11 g | [Fe] | Fe
solvent | water | 30 ml | O | H2O
product | 3-amino-4-(m-chlorophenoxy)-5-sulphamyl-benzoic acid | NC=1C=C(C(=O)O)C=C(C1OC1=CC(=CC=C1)Cl)S(N)(=O)=O | C13H11ClN2O5S
